US07807720B2
(S)-2-(4-Fluoro-3,5-dimethyl-benzyl)-8-(4-fluoro-3-methyl-phenyl)-octanoic acid hydroxyamide (Compound 168124)
To a solution of (R)-4-Benzyl-3-[(S)-2-(4-fluoro-3,5-dimethyl-benzyl)-8-(4-fluoro-3-methyl-phenyl)-octanoyl]-oxazolidin-2-one (0.036 g, 0.0657 mmol) in 2.5 mL of THF/MeOH/50% NH2OH—H2O (2:2:1), was added KCN (0.001 g, 0.007 mmol). After stirring at room temperature for overnight, the reaction mixture was acidified with concentrated HCl to pH=2 and filtered. The product was isolated by RP-HPLC eluting with 20-100% acetonitrile (0.025% TFA)/water (0.025% TFA) to give the title compound as an off-white solid (0.005 g, 18% yield). LC-MS: tR=11.1 min, m/z 404 (M+H)+; 1H NMR (300 MHz, CD3OD) δ 1.21-1.33 (m, 6H), 1.34-1.48 (m, 2H), 1.49-1.66 (m, 2H), 2.18 (s, 6H), 2.21 (s, 3H), 2.23-2.32 (m, 1H), 2.51 (t, J=7.32 Hz, 2H), 2.56-2.62 (m, 1H), 2.67-2.78 (m, 1H), 6.81 (d, J=6.74 Hz, 2H), 6.88 (t, J=9.37 Hz, 1H), 6.91-6.97 (m, 1H), 7.00 (d, J=7.03 Hz, 1H).

reactant | (R)-4-Benzyl-3-[(S)-2-(4-fluoro-3,5-dimethyl-benzyl)-8-(4-fluoro-3-methyl-phenyl)-octanoyl]-oxazolidin-2-one | 0.0657 mmol, 0.036 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CCCCCCC1=CC(=C(C=C1)F)C)CC1=CC(=C(C(=C1)C)F)C)=O | C34H39F2NO3
reactant | KCN | 0.007 mmol, 0.001 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | THF MeOH | 2.5 mL | C1CCOC1.CO
product | (S)-2-(4-Fluoro-3,5-dimethyl-benzyl)-8-(4-fluoro-3-methyl-phenyl)-octanoic acid hydroxyamide | 0.005 g, 18% yield | ONC([C@@H](CCCCCCC1=CC(=C(C=C1)F)C)CC1=CC(=C(C(=C1)C)F)C)=O | C24H31F2NO2
